### PR TITLE
[Merged by Bors] - chore: rename LinearEquiv.prod to prodCongr

### PR DESCRIPTION
**Pull request by grunweg**
Zulip discussion: [#mathlib4 > Naming convention @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Naming.20convention/near/512683092)

As a bonus, replace some outdated `prod.map` in module doc-strings by `Prod.map`.

---

Best reviewed commit by commit.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Trace.lean [hunk 1]
```diff
@@ -186,15 +186,15 @@ theorem trace_transpose : trace R (Module.Dual R M) ∘ₗ Module.Dual.transpose
 theorem trace_prodMap :
     trace R (M × N) ∘ₗ prodMapLinear R M N M N R =
       (coprod id id : R × R →ₗ[R] R) ∘ₗ prodMap (trace R M) (trace R N) := by
-  let e := (dualTensorHomEquiv R M M).prod (dualTensorHomEquiv R N N)
+  let e := (dualTensorHomEquiv R M M).prodCongr (dualTensorHomEquiv R N N)
   have h : Function.Surjective e.toLinearMap := e.surjective
   refine (cancel_right h).1 ?_
   ext
-  · simp only [e, dualTensorHomEquiv, LinearEquiv.coe_prod, dualTensorHomEquivOfBasis_toLinearMap,
+  · simp only [e, dualTensorHomEquiv, LinearEquiv.coe_prodCongr, dualTensorHomEquivOfBasis_toLinearMap,
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Trace.lean:193]: Note to self: fix this line's length, and four lines below

Comment (grunweg) [reply Mathlib/LinearAlgebra/Trace.lean]: Fixed: both proofs could be `simp [e]`, but that makes them go from 400 to 700ms (on my relatively fast computer).

**Comment by j-loreaux** [comment]
Thanks!

bors merge
